US06818642B2
A4. (3-Benzyloxy-4-methoxybenzyl)(5-chloro-2,6-dimethylpyrimidin-4-yl)amine
In analogy to the method described in example A1, 6.11 g (38 mmol) of 4-amino-5-chloro-2,6-dimethylpyrimidine, 10.5 g (40 mmol) of 3-benzyloxy-4-methoxybenzyl chloride and 1.52 g (38 mmol) of sodium hydride (60% suspension in liquid paraffin) are reacted in a total of 225 ml of N-methylpyrrolidone. After chromatography on silica gel (mobile phase: toluene/dioxane=10:1) and crystallization from petroleum ether, the title compound is isolated as a pale beige solid. Yield: 5.2 g (36% of theory). m.p.: 111-117° C.

reactant | 4-amino-5-chloro-2,6-dimethylpyrimidine | 38 mmol, 6.11 g | NC1=NC(=NC(=C1Cl)C)C | C6H8ClN3
reactant | 3-benzyloxy-4-methoxybenzyl chloride | 40 mmol, 10.5 g | C(C1=CC=CC=C1)OC=1C=C(CCl)C=CC1OC | C15H15ClO2
reactant | sodium hydride | 38 mmol, 1.52 g | [H-].[Na+]
solvent | N-methylpyrrolidone | 225 ml | CN1C(CCC1)=O | C5H9NO
product | (3-Benzyloxy-4-methoxybenzyl)(5-chloro-2,6-dimethylpyrimidin-4-yl)amine | C(C1=CC=CC=C1)OC=1C=C(CNC2=NC(=NC(=C2Cl)C)C)C=CC1OC | C21H22ClN3O2
